US04536209
Production of N-[[4-chloro-3-[1-(propylcarbamoyl)propoxy]phenyl]]-3,4,5,6-tetrahydrophthalimide
A mixture of 2.00 g. of N-[4-chloro-3-(1-carboxypropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide and 5 ml. of thionyl chloride was refluxed with stirring for 1 hour and excess thionyl chloride was distilled off under a reduced pressure. The product was dissolved in 10 ml. of toluene and a mixture of 0.36 g. of n-propylamine, 0.6 g. of triethylamine and 5 ml. of toluene was added and the mixture was stirred at room temperature for 2 hours. Chloroform was added and the resulting organic phase was washed with water and dried and the product was purified by a chromatography on a column of silica gel (developing solvent:chloroform) and recrystallized from a mixture of ethyl acetate and n-hexane to obtain 1.62 g. of Compound No. 286 shown in Table 1.

reactant | N-[4-chloro-3-(1-carboxypropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(CC)C(=O)O | C18H18ClNO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | N-[[4-chloro-3-[1-(propylcarbamoyl)propoxy]phenyl]]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(CC)C(NCCC)=O | C21H25ClN2O4
